US07244744B2
4-(5-Fluoro-2-oxo-2,3-dihydro-benzoimidazol-1-yl)-piperidine-1-carboxylic acid ethyl ester was refluxed with 10% sodium hydroxide (2 mL) for 4 h. The reaction was allowed to cool to room temperature and acidified with concentrated hydrochloric acid. The acidified reaction mixture was adjusted to pH 10 with the slow addition of sodium carbonate. The pink solid that formed was collected by filtration and vacuum dried to give 5-Fluoro-1-piperidin-4-yl-1,3-dihydro-benzoimidazol-2-one (29.4 mg, 73%).

reactant | 4-(5-Fluoro-2-oxo-2,3-dihydro-benzoimidazol-1-yl)-piperidine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCC(CC1)N1C(NC2=C1C=CC(=C2)F)=O | C15H18FN3O3
reactant | sodium hydroxide | 2 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 5-Fluoro-1-piperidin-4-yl-1,3-dihydro-benzoimidazol-2-one | 29.4 mg, 73% | FC1=CC2=C(N(C(N2)=O)C2CCNCC2)C=C1 | C12H14FN3O
